US07435837B2
Treatment of (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.0 g, 4.98 mmol) with phenyl boronic acid (0.91 g, 7.22 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.392 g, 0.498 mmol), and potassium carbonate (1.72 g, 12.46 mmol) acording to the procedure described for Intermediate 37 gave 1.07 g (54%) of (±)-(4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. Rf=0.46 (silica, ethyl acetate:hexanes 1:4); 1H NMR (DMSO-d6) δH 7.70 (d, 2H); 7.53 (d, 2H); 7.40 (t, 2H); 7.32 (m, 4H); 6.77 (t, 1H); 5.15 (m, 1H); 4.31 (dd, 1H); 4.22 (dd, 1H); 3.30 (dd, 1H, obscured by H2O peak); 3.01 (dd, 1H).

reactant | (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 4.98 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2Br)F | C16H14BrFO4S
reactant | phenyl boronic acid | 7.22 mmol, 0.91 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 12.46 mmol, 1.72 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.498 mmol, 0.392 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-(4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.07 g, 54% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2C2=CC=CC=C2)F | C22H19FO4S
